US08138178B2
(R)-6-Methoxymethyl-3-{(S)-1-[4-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-phenyl]-ethyl}-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from (R)-6-(methoxymethyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one and 5-bromo-1-methylpyridin-2(1H)-one following a procedure analogous to that described in Example 76. Mass spectrum (ESI+): m/z=433 [M+H]+

reactant | (R)-6-(methoxymethyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | COC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C26H34BNO5
reactant | 5-bromo-1-methylpyridin-2(1H)-one | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
product | (R)-6-Methoxymethyl-3-{(S)-1-[4-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-phenyl]-ethyl}-6-phenyl-[1,3]oxazinan-2-one | COC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=CC=C1 | C26H28N2O4
